US07858624B2
To a solution of (3R)-tert-butyl 3-((6-fluoro-3′-methylbiphenyl-2-yl)(2-hydroxyethoxy)methyl)piperidine-1-carboxylate (1 g, 2.3 mmol) in dry CH2Cl2 (15 mL) was added Et3N (0.9 g, 9.0 mmol) at ca 0 to −5° C. A solution of MsCl (0.5 g, 4.5 mmol) in anhydrous CH2Cl2 (4 mL) was added dropwise at the same temperature. After addition, the mixture was allowed to warm to rt gradually. TIc showed the starting material had disappeared. Water was added and the aqueous layer was extracted with CH2Cl2. The combined organic extracts were washed with 10% aq citric acid, satd aq NaHCO3 and brine, dried over Na2SO4, filtered and concentrated to give (3R)-tert-butyl 3-((6-fluoro-3′-methylbiphenyl-2-yl)(2-(methanesulfonyloxy)ethoxy)methyl)piperidine-1-carboxylate (1.1 g, yield 94%), which was used in the next step without purification.

reactant | (3R)-tert-butyl 3-((6-fluoro-3′-methylbiphenyl-2-yl)(2-hydroxyethoxy)methyl)piperidine-1-carboxylate | 2.3 mmol, 1 g | FC1=CC=CC(=C1C1=CC(=CC=C1)C)C([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCCO | C26H34FNO4
reactant | Et3N | 9.0 mmol, 0.9 g | CCN(CC)CC | C6H15N
reactant | MsCl | 4.5 mmol, 0.5 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | O | H2O
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | (3R)-tert-butyl 3-((6-fluoro-3′-methylbiphenyl-2-yl)(2-(methanesulfonyloxy)ethoxy)methyl)piperidine-1-carboxylate | 1.1 g, yield 94% | FC1=CC=CC(=C1C1=CC(=CC=C1)C)C([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCCOS(=O)(=O)C | C27H36FNO6S
